US05055458
b) 9-(1-t-Butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop -2-oxy)-6-chloro-2-formamidopurine
A solution of 4-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxyamino)-6-chloro -2,5-diformamidopyrimidine (0.68 g, 1.19 mmol) in diethoxymethylacetate (10 ml) was stirred at 120° C. for 4 hours. The solvent was evaporated under high vacuum, the residue dissolved in methanol (10 ml) and 0.88 ammonia (0.3 ml) and stirred for 1 hour at 20° C. After evaporation to dryness, the residue was chromatographed on silica eluting with chloroform-methanol 40:1 affording 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloro-2-formamidopurine (0.32 g, 49%) as a pale yellow oil. νmax (film) 3420, 1710, 1620, 1580, 1510, 1440, 1390, 1250 and 1030 cm-1 ; δH (CDCl3) 0.80(6H, s, (CH3)2Si), 0.87(9H, s, (CH3)3C), 1.30(6H, t, J7.2 Hz, 2×CH2CH3), 3.86(6H, m, CH2OSi+CH2OCH2P), 4.15(4H, m, 2×CH2CH3), 4.50(1H, m, CHON); 8.26(1H, s, H-8); 9.00(1H, br.d, J10.5 Hz, D2O exchangeable, NHCHO), 9.53(1H, d, J10.5 Hz, NHCHO). Found: C,43.02; H,6.49; N,12.18%; MH+ 552.1812. C20H35N5O7ClPSi.0.5H2O requires C,42.82; H,6.47; N,12.47%; MH+ 552.1810.

reactant | 4-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxyamino)-6-chloro -2,5-diformamidopyrimidine | 1.19 mmol, 0.68 g | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ONC1=NC(=NC(=C1NC=O)Cl)NC=O | C20H37ClN5O8PSi
solvent | diethoxymethylacetate | 10 ml | C(C)OC(OCC)OC(C)=O | C7H14O4
product | 9-(1-t-Butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop -2-oxy)-6-chloro-2-formamidopurine | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC(=NC(=C2N=C1)Cl)NC=O | C20H35ClN5O7PSi
